US07851492B2
1-(2-Methoxy-5-trifluoromethyl-phenyl)-3-(2-trifluoromethyl-phenyl)-urea (1 g) was dissolved in dry dichloromethane (20 ml) and cooled in an ice-bath. A 1M solution of BBr3 in dichloromethane (4 ml) was added drop-wise, and the solution stirred at room temperature for 30 minutes. Water was added, and after vigorous stirring, the mixture was extracted with dichloromethane. Drying (MgSO4), filtration, concentration in vacuo and flash chromatography provided a product which was slurried with petrol, filtered, washed with petrol and dried to afford 1-(2-Hydroxy-5-trifluoromethyl-phenyl)-3-(2-trifluoromethyl-phenyl)-urea (340 mg). Mp.=158-159° C.

reactant | 1-(2-Methoxy-5-trifluoromethyl-phenyl)-3-(2-trifluoromethyl-phenyl)-urea | 1 g | COC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=C(C=CC=C1)C(F)(F)F | C16H12F6N2O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-(2-Hydroxy-5-trifluoromethyl-phenyl)-3-(2-trifluoromethyl-phenyl)-urea | 340 mg | OC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=C(C=CC=C1)C(F)(F)F | C15H10F6N2O2
